US07994171B2
2-(4-Fluorophenyl)-5-(4-methoxy-2-methyl-5-(1-(pyrimidin-4-yl)cyclopropyl carbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide.
To a mixture of 5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoic acid (0.096 g, 0.221 mmol, 1.0 eq), 1-(pyrimidin-4-yl)cyclopropanamine HCl (0.03 g, 0.221 mmol, 1.0 eq) in DMF at 0° C. was added TEA (0.12 g, 1.188 mmol, 5.0 eq) and BOP reagent (0.146 g, 0.330 mmol, 1.5 eq). The reaction mixture was stirred as RT overnight. The reaction mixture was diluted with water, extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated. The crude product was purified by silica gel (60-120) column chromatography using 3% MeOH/CHCl3 as eluent. Yield: 0.070 g (57.33%). 1H NMR (400 MHz, CD3OD): δ 8.99 (d, J=1.0 Hz, 1H), 8.61 (d, J=5.6 Hz, 1H), 7.99-7.93 (m, 2H), 7.79 (s, 1H), 7.69-7.54 (m, 3H), 7.39-7.23 (m, 3H), 7.16 (s, 1H), 4.08 (s, 3H), 2.96 (s, 3H), 2.34 (s, 3H), 1.85-1.82 (m, 2H), 1.61-1.49 (m, 2H).

reactant | 5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoic acid | 0.221 mmol, 0.096 g, 1.0 eq | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C(=CC(=C(C(=O)O)C2)OC)C | C25H20FNO5
reactant | 1-(pyrimidin-4-yl)cyclopropanamine HCl | 0.221 mmol, 0.03 g, 1.0 eq | Cl.N1=CN=C(C=C1)C1(CC1)N
reactant | BOP reagent | 0.330 mmol, 0.146 g, 1.5 eq | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(4-Fluorophenyl)-5-(4-methoxy-2-methyl-5-(1-(pyrimidin-4-yl)cyclopropyl carbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=C(C=C(C(=C2)C(NC2(CC2)C2=NC=NC=C2)=O)OC)C | C32H27FN4O4
